US07923555B2
To a solution of 1-bromo-4-methoxy-2-methyl-3-nitrobenzene (1.400 g, 5.68 mmol) and 1,1-dimethoxy-N,N-dimethylethanamine (0.884 mL, 6.657 mmol) in DMF (10.0 mL) was added pyrrolidine (0.555 mL, 6.656 mmol) and the mixture was heated to at 110° C. for 4 h. The DMF was removed and the residue was recrystallized from DCM:methanol (1:6) mixture to afford 1-[(E)-2-(6-bromo-3-methoxy-2-nitrophenyl)vinyl]pyrrolidine.

reactant | 1-bromo-4-methoxy-2-methyl-3-nitrobenzene | 5.68 mmol, 1.400 g | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])C | C8H8BrNO3
reactant | 1,1-dimethoxy-N,N-dimethylethanamine | 6.657 mmol, 0.884 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | pyrrolidine | 6.656 mmol, 0.555 mL | N1CCCC1 | C4H9N
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 1-[(E)-2-(6-bromo-3-methoxy-2-nitrophenyl)vinyl]pyrrolidine | BrC1=CC=C(C(=C1/C=C/N1CCCC1)[N+](=O)[O-])OC | C13H15BrN2O3
